US06498165B1
Step B: 2-[(S)-1-phenylethylamino]-4-[benzimidazol-1-yl]-6-aminopyrimidine
To a suspension of of 2-[(S)-1-phenylethylamino]-4-[benzimidazol-1-yl]-6-azidopyrimidine (11 mg, 0.03 mmol) in ethanol (1 mL) was added 10% palladium on carbon (11 mg), then the mixture was charged with H2 via balloon. The reaction mixture was stirred for 2 h, then filtered over packed Celite and rinsed thoroughly with EtOAc. The solvent was concentrated under reduced pressure, and the crude material was purified by preparative thin layer chromatography eluting with 3% MeOH/CH2Cl2 to afford 6.2 mg of the title compound. Mass spectrum 331.2 (CI, M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[benzimidazol-1-yl]-6-azidopyrimidine | 0.03 mmol, 11 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)N=[N+]=[N-] | C19H16N8
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 11 mg | [Pd] | Pd
product | 2-[(S)-1-phenylethylamino]-4-[benzimidazol-1-yl]-6-aminopyrimidine | 6.2 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)N | C19H18N6
